US09290514B2
Step 1. [8-(3,5-Dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazin-5-yl]methanol
A solution of methyl 8-(3,5-dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate (0.150 g, 0.412 mmol) in tetrahydrofuran (4.50 mL) at 0° C. was treated with 1.0 M lithium tetrahydroaluminate in THF (0.823 mL, 0.823 mmol) dropwise. After complete addition the mixture was stirred at 0° C. for 15 min. The reaction mixture was quenched with saturated ammonium chloride solution (20 mL), warmed to R.T., and extracted with ethyl acetate (2×20 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to give a colorless residue. Purification by flash column chromatography (100% hexanes to 70% EtOAc [containing 5% methanol]/30% hexanes) gave the desired product (0.13 g, 94%) as a white foam. LCMS calculated for C20H21N2O3 (M+H)+: m/z=337.2. found: 337.2.

reactant | methyl 8-(3,5-dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate | 0.412 mmol, 0.150 g | CC1=NOC(=C1C=1C=CC(=C2NC(COC21)C2=CC=CC=C2)C(=O)OC)C | C21H20N2O4
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
solvent | tetrahydrofuran | 4.50 mL | O1CCCC1 | C4H8O
solvent | THF | 0.823 mmol, 0.823 mL | C1CCOC1 | C4H8O
product | [8-(3,5-Dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazin-5-yl]methanol | 0.13 g, 94% | CC1=NOC(=C1C1=CC=C(C=2NC(COC21)C2=CC=CC=C2)CO)C | C20H20N2O3
